US03954741
A mixture of 10.0 g. (55.6 mmoles) of 5-bromovaleramide, 10 ml. of propionic anhydride and 5 drops of concentrated sulfuric acid was heated at 110° (oil bath) for 5 hours. The mixture was then cooled and was diluted with water (50 ml.). The aqueous layer was washed with methylene chloride (3×) and the combined organic extracts were dried (anhydrous magnesium sulfate) and concentrated to afford a semi-solid. The crude semi-solid was purified by silica gel chromatography using benzene then chloroform as eluents. The desired N-propionyl-5-bromovaleramide was obtained as a white solid weighing 7.71 g. (59.0% yield). The product was recrystallized from methylene chloride:hexane as white microcrystals melting at 94°-97°.

reactant | 5-bromovaleramide | 55.6 mmoles | BrCCCCC(=O)N | C5H10BrNO
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | N-propionyl-5-bromovaleramide | 59.0% yield | C(CC)(=O)NC(CCCCBr)=O | C8H14BrNO2
